### PR TITLE
[Merged by Bors] - feat(Order/CompactlyGenerated/Basic): atoms are compact in a frame

### PR DESCRIPTION
**Pull request by thomaskwaring**
... and therefore an atomistic frame is compactly generated. This allows to synthesise `IsCompactlyGenerated (Set α)`. Along the way we generalise a handful of results from `CompleteLattice` to `SemilatticeSup`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 1]
```diff
@@ -696,3 +696,18 @@ theorem complementedLattice_iff_isAtomistic : ComplementedLattice α ↔ IsAtomi
...
 
 end
+
+section Frame
+
+variable {α : Type*} [Order.Frame α]
+
+lemma IsAtom.isCompactElement {x : α} (h : IsAtom x) : IsCompactElement x := by
+  intro s u _ _ hu hx
+  rwa [←hu.sSup_eq, IsAtom.le_sSup h] at hx
```
Comment (SnirBroshi) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]:
```suggestion
  rwa [← hu.sSup_eq, IsAtom.le_sSup h] at hx
```

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 2]
```diff
@@ -696,3 +696,18 @@ theorem complementedLattice_iff_isAtomistic : ComplementedLattice α ↔ IsAtomi
   · exact complementedLattice_of_isAtomistic
 
 end
+
+section Frame
+
+variable {α : Type*} [Order.Frame α]
```
Comment (SnirBroshi) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:727]: This should generalize to generalized Heyting algebras:
```suggestion
variable {α : Type*} [GeneralizedHeytingAlgebra α] [OrderBot α]
```

**Review by SnirBroshi — COMMENTED** [review]
Cool!

It generalizes even further to upper-continuous lattices, which I'm planning to define soon

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 1 above)
Comment (thomaskwaring) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: one day i will remember this :/

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 2 above)
Comment (thomaskwaring) [reply Mathlib/Order/CompactlyGenerated/Basic.lean:727]: Hmm so it should — currently there is literally no result referring to `IsCompactElement` without `CompleteLattice`, and the result `IsAtom.le_sSup` doesn't have an equivalent for `IsLUB`, so maybe it should stay as-is for the moment? I you think it's important I can work on generalising `IsAtom.le_sSup`, though. (Also a `GeneralizedHeytingAlgebra` with an `OrderBot` is canonically a `HeytingAlgebra` no?)

Comment (SnirBroshi) [reply Mathlib/Order/CompactlyGenerated/Basic.lean:727]: Oh I forgot that `IsCompactlyGenerated` requires `CompleteLattice` :(
#42421 fixes it
Yeah so for now `Order.Frame` seems like the best possible.

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 3]
```diff
@@ -208,6 +208,14 @@ theorem isCompactElement_finsetSup {α β : Type*} [CompleteLattice α] {f : β
     specialize h d hemp hdir (le_trans (Finset.le_sup hps) hsup)
     simpa only [exists_prop]
 
+lemma _root_.IsCompactElement.exists_finset_eq_sup_of_eq_sSup {x : α} (hx : IsCompactElement x)
+    {s : Set α} (h : x = sSup s) : ∃ t : Finset α, ↑t ⊆ s ∧ x = t.sup id := by
```
Comment (SnirBroshi) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]: It seems strange to have an equation assumption without substituting it.
You could do:
```suggestion
lemma _root_.IsCompactElement.exists_finset_eq_sup_of_eq_sSup {x : α} (hx : IsCompactElement x)
    {s : Set α} (h : IsLUB s x) : ∃ t : Finset α, ↑t ⊆ s ∧ x = t.sup id := by
```
([`isLUB_iff_sSup_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice/Defs.html#isLUB_iff_sSup_eq))
or substitute the equation into the rest of the statement:
```suggestion
lemma _root_.IsCompactElement.exists_finset_eq_sup_of_eq_sSup {s : Set α}
    (h : IsCompactElement (sSup s)) : ∃ t : Finset α, ↑t ⊆ s ∧ sSup s = t.sup id := by
```

Comment (thomaskwaring) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: fair point — i opted for the second option but v open to advice on how to best state it idiomatically

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 4]
```diff
@@ -696,3 +703,29 @@ theorem complementedLattice_iff_isAtomistic : ComplementedLattice α ↔ IsAtomi
   · exact complementedLattice_of_isAtomistic
 
 end
+
+section Frame
+
+variable {α : Type*} [Order.Frame α]
+
+lemma IsAtom.isCompactElement {x : α} (h : IsAtom x) : IsCompactElement x := by
```
Comment (SnirBroshi) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]: Now that a different `IsAtom.isCompactElement` exists (strange timing), for `[CompleteLattice α] [IsCompactlyGenerated α]`, until we get upper-continuous lattices (which generalize both compactly-generated and frames) you'll have to rename yours I guess.

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 5]
```diff
@@ -696,3 +703,29 @@ theorem complementedLattice_iff_isAtomistic : ComplementedLattice α ↔ IsAtomi
...
+  intro s u _ _ hu hx
+  rwa [← hu.sSup_eq, IsAtom.le_sSup h] at hx
+
+instance [IsAtomistic α] : IsCompactlyGenerated α where
+  exists_sSup_eq x := by
+    obtain ⟨s, hx, hs⟩ := isLUB_atoms x
+    refine ⟨s, fun a ha => (hs a ha).isCompactElement, hx.sSup_eq⟩
+
+lemma isCompactElement_iff_of_isAtomistic [IsAtomistic α] (x : α) :
```
Comment (SnirBroshi) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]: The new `isCompactElement_iff_exists_finite_isAtom` is the `Set.Finite` version of this (instead of `Finset`s).

Comment (thomaskwaring) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: that looks strictly more general, thanks — i've left the supporting lemma which seems possibly useful

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 6]
```diff
@@ -721,3 +727,18 @@ theorem complementedLattice_iff_isAtomistic : ComplementedLattice α ↔ IsAtomi
...
+variable {α : Type*} [Order.Frame α]
+
+lemma IsAtom.isCompactElement_of_frame {x : α} (h : IsAtom x) : IsCompactElement x := by
+  intro s u _ _ hu hx
+  rwa [← hu.sSup_eq, IsAtom.le_sSup h] at hx
+
+instance [IsAtomistic α] : IsCompactlyGenerated α where
+  exists_sSup_eq x := by
+    obtain ⟨s, hx, hs⟩ := isLUB_atoms x
+    refine ⟨s, fun a ha => (hs a ha).isCompactElement_of_frame, hx.sSup_eq⟩
```
Comment (SnirBroshi) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]:
```suggestion
    exact ⟨s, fun a ha ↦ (hs a ha).isCompactElement_of_frame, hx.sSup_eq⟩
```
or even
```suggestion
    exact ⟨s, (hs · · |>.isCompactElement_of_frame), hx.sSup_eq⟩
```

Comment (thomaskwaring) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: very nice! thanks

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 7]
```diff
@@ -217,6 +217,13 @@ protected lemma IsCompactElement.sSup (hs : s.Finite) (h : ∀ a ∈ s, IsCompac
     IsCompactElement (sSup s) := by
   have := hs.to_subtype; rw [sSup_eq_iSup']; exact .iSup fun a ↦ h _ a.2
 
+lemma exists_finset_sup_eq_of_isCompactElement_sSup {α : Type*} [CompleteLattice α]
+    {s : Set α} (h : IsCompactElement (sSup s)) : ∃ t : Finset α, ↑t ⊆ s ∧ t.sup id = sSup s := by
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]: Both interpretations are valid, but I would slightly prefer
```suggestion
lemma exists_finsetSup_eq_of_isCompactElement_sSup {α : Type*} [CompleteLattice α]
    {s : Set α} (h : IsCompactElement (sSup s)) : ∃ t : Finset α, ↑t ⊆ s ∧ t.sup id = sSup s := by
```
In fact, if you use `Finset.sup`, you might as well generalise to a `SemilatticeSup`, right?
```suggestion
lemma exists_finsetSup_eq_of_isCompactElement_isLUB {α : Type*} [SemilatticeSup α]
    (ha : IsCompactElement a) {s : Set α} (hs : IsLUB s a) : ∃ t : Finset α, ↑t ⊆ s ∧ t.sup id = a := by
```

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 8]
```diff
@@ -721,3 +727,18 @@ theorem complementedLattice_iff_isAtomistic : ComplementedLattice α ↔ IsAtomi
   · exact complementedLattice_of_isAtomistic
 
 end
+
+section Frame
+
+variable {α : Type*} [Order.Frame α]
+
+lemma IsAtom.isCompactElement_of_frame {x : α} (h : IsAtom x) : IsCompactElement x := by
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:729]: Are there other sensible assumptions under which you could prove this implication? If not, I would suggest simply
```suggestion
lemma IsAtom.isCompactElement {x : α} (h : IsAtom x) : IsCompactElement x := by
```

Comment (SnirBroshi) [reply Mathlib/Order/CompactlyGenerated/Basic.lean:729]: But you just added a different `IsAtom.isCompactElement`

The correct generality of this is upper-continuous lattices, which I plan to add sometime soon, but for now I don't think we have something that generalizes frames and compactly-generated lattices.

Comment (YaelDillies) [reply Mathlib/Order/CompactlyGenerated/Basic.lean:729]: Okay sure!

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 7 above)
Comment (thomaskwaring) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: i like the second option, but probably the right way would be to generalise `isCompactElement_iff_exists_le_sSup_of_le_sSup` to `IsLUB` and `SemilatticeSup`, right? i can work on doing that either here or in a separate PR (this result was inlined in your proof of `IsCompactElement.exists_finite_isAtom`, which superceded mine, anyway).

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 8 above)
Comment (thomaskwaring) [reply Mathlib/Order/CompactlyGenerated/Basic.lean:729]: yes this was mostly for the sake of synthesising `IsCompactlyGenerated (Set _)` via the instance below, so i'll leave it as-is until Snir's continuous lattices come about.

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: Yes, please add it in this PR unless it is a really big change!

**Comment by thomaskwaring** [comment]
I've generalised a handful of results to not require `CompleteLattice` instances along the way, and spelt the new result with `IsLUB` has you (@YaelDillies and @SnirBroshi) suggested — lmk what you think!

-awaiting-author

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 9]
```diff
@@ -95,47 +95,43 @@ theorem isCompactElement_iff_le_of_directed_sSup_le (k : α) :
...
-      use t
-      exact ⟨htS, by rwa [← htsup]⟩
-    · intro hk s hne hdir hsup
-      obtain ⟨t, ht⟩ := hk s hsup
-      -- certainly every element of t is below something in s, since ↑t ⊆ s.
-      have t_below_s : ∀ x ∈ t, ∃ y ∈ s, x ≤ y := fun x hxt => ⟨x, ht.left hxt, le_rfl⟩
-      obtain ⟨x, ⟨hxs, hsupx⟩⟩ := Finset.sup_le_of_le_directed s hne hdir t t_below_s
-      exact ⟨x, ⟨hxs, le_trans ht.right hsupx⟩⟩
+  convert isCompactElement_iff_exists_le_finsetSup_of_le_isLUB
+  · simp [isLUB_iff_sSup_eq]
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]: Does something like this work?
```suggestion
  simp [isLUB_iff_sSup_eq, isCompactElement_iff_exists_le_finsetSup_of_le_isLUB]
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 9 above)
Comment (thomaskwaring) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: so it does, thanks

**Comment by ocfnash** [comment]
Thanks!

bors merge
